US03954754
EXAMPLE 18: 3-Hydrazino-5,6,7,8-tetrahydro-6-(3,4,5-trimethoxybenzoyl)pyrido[4,3-c]pyridazine
12.8 g of 3-chloro-5,6,7,8-tetrahydro-6-(3,4,5-trimethoxybenzoyl)pyrido[4,3-c]pyridazine and 40 cc of hydrazine hydrate in 40 cc of dioxane are stirred at a bath temperature of 100° for 41/2 hours. The title compound has a M.P. of 194°- 197° (decomp., from absolute ethanol/methanol 2:1).

reactant | 3-chloro-5,6,7,8-tetrahydro-6-(3,4,5-trimethoxybenzoyl)pyrido[4,3-c]pyridazine | 12.8 g | ClC1=CC2=C(N=N1)CCN(C2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C17H18ClN3O4
reactant | hydrazine hydrate | 40 cc | O.NN
solvent | dioxane | 40 cc | O1CCOCC1 | C4H8O2
product | 3-Hydrazino-5,6,7,8-tetrahydro-6-(3,4,5-trimethoxybenzoyl)pyrido[4,3-c]pyridazine | N(N)C1=CC2=C(N=N1)CCN(C2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C17H21N5O4
